US07517873B2
A mixture of 0.047 g (0.00012 mole) of 4-(9-cyclohexyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-methoxy-benzoic acid (I-28a), 0.050 g (0.00013 mole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.1 mL (0.0002 mole) of 2M dimethylamine in tetrahydrofuran, 0.075 mL of triethylamine and 2 mL of dichloromethane was stirred overnight at ambient temperature. The mixture was diluted with 3 mL of dichloromethane, washed with 2.5 mL of 0.2 M sodium hydroxide. The dichloromethane layer was concentrated under reduced pressure, and the residue purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (10:90-100:0) to give 0.033 g of 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N,N-dimethyl-benzamide (I-35)

reactant | 4-(9-cyclohexyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-methoxy-benzoic acid | 0.00012 mole, 0.047 g | C1(CCCCC1)N1C2=C(NC(CC1)=O)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2)OC | C21H25N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.00013 mole, 0.050 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | dimethylamine | 0.0002 mole, 2M, 0.1 mL | CNC | C2H7N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | 0.075 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(9-cyclobutyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N,N-dimethyl-benzamide | 0.033 g | C1(CCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N(C)C)C=C2)OC | C22H28N6O3
